US04710507
A solution of diisobutylaluminium hydride (210 cm3 of a 1.5M solution in THF) was added at -30° to a stirred solution of methyl-2-amino-5-iodobenzoate (28.0 g) in THF (100 cm3) under nitrogen. The mixture was warmed to room temperature, stirred for 16 hours and treated with methanol (35 cm3). Ethyl acetate (500 cm3) was added and the mixture filtered to remove inorganic material. The filtrate was concentrated in vacuo to afford a solid which was chromatographed on silica (Merck "MK 60.9385") eluting wiht chloroform:methanol, 49:1 (by volume), and the requisite fractions were combined and evaporated in vacuo to give 2-amino-5-iodobenzyl alcohol, m.p. 125°, (19.0 g).

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl-2-amino-5-iodobenzoate | 28.0 g | COC(C1=C(C=CC(=C1)I)N)=O | C8H8INO2
reactant | methanol | 35 cm3 | CO | CH4O
reactant | Ethyl acetate | 500 cm3 | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 cm3 | C1CCOC1 | C4H8O
product | 2-amino-5-iodobenzyl alcohol | NC1=C(CO)C=C(C=C1)I | C7H8INO
